USRE029305
a. 1,3-Bis(2-hydroxyethylthio)propane
The sodium mercaptide of 2-mercaptoethanol was made by reacting 1 mole each of sodium methoxide and 2-mercaptoethanol in dry methanol under a nitrogen atmosphere. To this solution, 0.5 mole of 1,3-dichloropropane was added and the mixture was refluxed for 1 hour and filtered. The methanol filtrate was evaporated on a flash evaporator and traces of 2-mercaptoethanol were distilled off at high vacuum at room temperature. The yellow, oily residue was extracted with acetone, the solution filtered, and the acetone evaporated to give a 95 percent yield of the crude product.

reactant | sodium mercaptide | [Na+].[SH-]
reactant | 2-mercaptoethanol | SCCO | C2H6OS
reactant | sodium methoxide | 1 mole | C[O-].[Na+]
reactant | 1,3-dichloropropane | 0.5 mole | ClCCCCl | C3H6Cl2
reactant | methanol | CO | CH4O
product | 1,3-Bis(2-hydroxyethylthio)propane | 95 percent yield | OCCSCCCSCCO | C7H16O2S2
